### PR TITLE
[Merged by Bors] - feat(KrullDimension): coheight API

### PR DESCRIPTION
**Pull request by nomeata**
Part of #15524. This adds basic definitions for the `coheight`, and then
analogous lemmas for every lemma about `height`. Due to the way
`coheight` is defined, most lemmas are defeq to the corresponding lemma
bout `height` in the dual order.

From the Carleson project.

### CODE REVIEW

File: Mathlib/Order/KrullDimension.lean [hunk 1]
```diff
@@ -319,6 +442,11 @@ lemma height_eq_coe_iff {x : α} {n : ℕ} :
     rename_i y _
     cases height y <;> simp; norm_cast; omega
 
+lemma coheight_eq_coe_iff (x : α) (n : ℕ) :
```
Comment (nomeata) [inline Mathlib/Order/KrullDimension.lean:445]:
```suggestion
lemma coheight_eq_coe_iff {x : α} {n : ℕ} :
```

File: Mathlib/Order/KrullDimension.lean [hunk 2]
```diff
@@ -334,6 +462,11 @@ lemma height_eq_coe_iff_minimal_le_height {a : α} {n : ℕ} :
     use p.eraseLast.last, RelSeries.eraseLast_last_rel_last _ (by omega)
     simpa [hp] using length_le_height_last (p := p.eraseLast)
 
+/-- The elements of finite coheight `n` are the maximal elements among those of coheight `≥ n`. -/
+lemma coheight_eq_coe_iff_maximal_le_coheight (a : α) (n : ℕ) :
```
Comment (nomeata) [inline Mathlib/Order/KrullDimension.lean:466]:
```suggestion
lemma coheight_eq_coe_iff_maximal_le_coheight {a : α} {n : ℕ} :
```

File: Mathlib/Order/KrullDimension.lean [hunk 3]
```diff
@@ -82,10 +83,31 @@ variable {α β : Type*}
 
 variable [Preorder α] [Preorder β]
 
+lemma height_orderDual (x : αᵒᵈ) : height x = coheight (α := α) x := rfl
+
+lemma coheight_orderDual (x : αᵒᵈ) : coheight x = height (α := α) x := rfl
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:88]:
```suggestion
@[simp] lemma height_toDual (x : α) : height (toDual x) = coheight x := rfl
@[simp] lemma height_ofDual (x : αᵒᵈ) : height (ofDual x) = coheight x := rfl
@[simp] lemma coheight_toDual (x : α) : coheight (toDual x) = height x := rfl
@[simp] lemma coheight_ofDual (x : αᵒᵈ) : coheight (ofDual x) = height x := rfl
```

File: Mathlib/Order/KrullDimension.lean [hunk 4]
```diff
@@ -160,12 +220,23 @@ lemma height_eq_index_of_length_eq_height_last {p : LTSeries α} (h : p.length =
...
+    (i : Fin (p.length + 1)) : coheight (p i) = i.rev := by
+  simpa using height_eq_index_of_length_eq_height_last (α := αᵒᵈ) (p := p.reverse) (by simpa) i.rev
+
 lemma height_mono : Monotone (α := α) height :=
   fun _ _ hab ↦ biSup_mono (fun _ hla => hla.trans hab)
 
 @[gcongr] protected lemma _root_.GCongr.height_le_height (a b : α) (hab : a ≤ b) :
     height a ≤ height b := height_mono hab
 
+lemma coheight_mono : Antitone (α := α) coheight :=
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:237]:
```suggestion
lemma coheight_anti : Antitone (α := α) coheight :=
```

File: Mathlib/Order/KrullDimension.lean [hunk 5]
```diff
@@ -160,12 +220,23 @@ lemma height_eq_index_of_length_eq_height_last {p : LTSeries α} (h : p.length =
...
+  fun _ _ hxy => height_mono (α := αᵒᵈ) hxy
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:238]:
```suggestion
  height_mono.dual_left
```
might work

Comment (nomeata) [reply Mathlib/Order/KrullDimension.lean:240]: Unfortunately doesn’t:
```
synthesized type class instance is not definitionally equal to expression inferred by typing rules, synthesized
  inst✝
inferred
  OrderDual.instPreorder α
```
And instantiating `α` gives
```
type mismatch
  Monotone.dual_left height_mono
has type
  Antitone (height ∘ ⇑OrderDual.ofDual) : Prop
but is expected to have type
  Antitone coheight : Prop
```
which doesn’t seem to line up, not sure why exactly.

Comment (YaelDillies) [reply Mathlib/Order/KrullDimension.lean:240]: > And instantiating `α` gives

Do you mean
```
height_mono (α := α).dual_left
```
? because the right thing would be
```
height_mono (α := αᵒᵈ).dual_left
```

Comment (nomeata) [reply Mathlib/Order/KrullDimension.lean:240]: Ah, yes, that may explain my failure. I'll try!

File: Mathlib/Order/KrullDimension.lean [hunk 6]
```diff
@@ -135,18 +181,34 @@ lemma length_le_height {p : LTSeries α} {x : α} (hlast : p.last ≤ x) :
...
 /--
 The height of the last element in a series is larger or equal to the length of the series.
 -/
 lemma length_le_height_last {p : LTSeries α} : p.length ≤ height p.last :=
   length_le_height le_rfl
 
+/--
+The coheight of the first element in a series is larger or equal to the length of the series.
+-/
+lemma length_le_coheight_last {p : LTSeries α} : p.length ≤ coheight p.head :=
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:197]:
```suggestion
lemma length_le_coheight_head {p : LTSeries α} : p.length ≤ coheight p.head :=
```
... unless I've lost my last, hmm head

File: Mathlib/Order/KrullDimension.lean [hunk 7]
```diff
@@ -135,18 +181,34 @@ lemma length_le_height {p : LTSeries α} {x : α} (hlast : p.last ≤ x) :
...
 /--
 The height of an element in a series is larger or equal to its index in the series.
 -/
 lemma index_le_height (p : LTSeries α) (i : Fin (p.length + 1)) : i ≤ height (p i) :=
   length_le_height_last (p := p.take i)
 
+/--
+The coheight of an element in a series is larger or equal to its reverse index in the series.
+-/
+lemma index_le_coheight (p : LTSeries α) (i : Fin (p.length + 1)) : i.rev ≤ coheight (p i) := by
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:209]:
```suggestion
lemma rev_index_le_coheight (p : LTSeries α) (i : Fin (p.length + 1)) : i.rev ≤ coheight (p i) := by
```
maybe?

File: Mathlib/Order/KrullDimension.lean [hunk 8]
```diff
@@ -186,12 +259,20 @@ lemma height_le_height_apply_of_strictMono (f : α → β) (hf : StrictMono f) (
   intro p hlast
   apply le_iSup₂_of_le (p.map f hf) (by simp [hlast]) (by simp)
 
+lemma coheight_le_coheight_apply_of_astrictMono (f : α → β) (hf : StrictMono f) (x : α) :
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:262]:
```suggestion
lemma coheight_le_coheight_apply_of_strictMono (f : α → β) (hf : StrictMono f) (x : α) :
```

File: Mathlib/Order/KrullDimension.lean (hunk 6 above)
Comment (nomeata) [reply Mathlib/Order/KrullDimension.lean:197]: No, certainly my mind that got lost at some point here :-)

File: Mathlib/Order/KrullDimension.lean [hunk 9]
```diff
@@ -244,14 +334,22 @@ lemma height_eq_iSup_lt_height (x : α) : height x = ⨆ y < x, height y + 1 :=
     apply iSup₂_le; intro p hp
     apply le_iSup₂_of_le (p.snoc x (hp ▸ hyx)) (by simp) (by simp)
 
-lemma height_le_coe_iff {x : α} {n : ℕ} :
-    height x ≤ n ↔ ∀ y < x, height y < n := by
+/--
+Another characterization of coheight, based on the supremum of the coheights of elements above.
+-/
+lemma coheight_eq_iSup_lt_height (x : α) : coheight x = ⨆ y > x, coheight y + 1 :=
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:340]:
```suggestion
lemma coheight_eq_iSup_gt_coheight (x : α) : coheight x = ⨆ y > x, coheight y + 1 :=
```

File: Mathlib/Order/KrullDimension.lean [hunk 10]
```diff
@@ -290,6 +406,10 @@ lemma coe_lt_height_iff {x : α} {n : ℕ} (hfin : height x < ⊤) :
   mpr := fun ⟨y, hyx, hy⟩ =>
     hy ▸ height_strictMono hyx (lt_of_le_of_lt (height_mono hyx.le) hfin)
 
+lemma coe_lt_coheight_iff {x : α} {n : ℕ} (hfin : coheight x < ⊤):
+    n < coheight x ↔ (∃ y > x, coheight y = n) :=
```
Comment (YaelDillies) [inline Mathlib/Order/KrullDimension.lean:410]:
```suggestion
    n < coheight x ↔ ∃ y > x, coheight y = n :=
```

**Review by YaelDillies — APPROVED** [review]
A few more typos, but the rest looks good, thanks!

maintainer delegate

File: Mathlib/Order/KrullDimension.lean (hunk 10 above)
Comment (nomeata) [reply Mathlib/Order/KrullDimension.lean:410]: (Personally, I’d be inclined to ban omitting parenthesis on the right of a symmetric operator when you cannot omit them on the left.)

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
